US05219871
Preparation of 2,2-diphenyl-5-[N-(4-chlorophenethyl)-N-methylamino]pentanamide
A mixture containing 2,2-diphenyl-5-methylaminopentanamide (0.3 g-see Preparation 3), 4-chlorophenethyl bromide (0.234 g-see Preparation 7), anhydrous potassium carbonate (0.4 g) and acetonitrile (10 ml) was heated under reflux for 5 hours. The mixture was concentrated in vacuo and the residue partitioned between dichloromethane (30 ml) and 10% aqueous potassium carbonate (30 ml). The layers were separated and the aqueous layer extracted with dichloromethane (3×20 ml). The combined dichloromethane extracts were dried (MgSO4) and concentrated in vacuo to give a gum which was purified by column chromatography on silica eluting with dichloromethane containing methanol (5% up to 10%). The product-containing fractions were combined and concentrated in vacuo to give the title compound as a gum, yield 0.306 g.

reactant | 2,2-diphenyl-5-methylaminopentanamide | 0.3 g | C1(=CC=CC=C1)C(C(=O)N)(CCCNC)C1=CC=CC=C1 | C18H22N2O
reactant | 4-chlorophenethyl bromide | 0.234 g | ClC1=CC=C(CCBr)C=C1 | C8H8BrCl
reactant | potassium carbonate | 0.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 2,2-diphenyl-5-[N-(4-chlorophenethyl)-N-methylamino]pentanamide | C1(=CC=CC=C1)C(C(=O)N)(CCCN(C)CCC1=CC=C(C=C1)Cl)C1=CC=CC=C1 | C26H29ClN2O
